US04596596
1(2 or 3)-Benzyl-5-ethyl-1H-1,2,3-triazole-4-carboxylic acid
To a solution of 4.3 g (187 mmoles) of sodium pellets in 80 ml of absolute ethanol under nitrogen was added 18.0 g (125 mmoles) of ethyl propionylacetate followed by 16.6 g (125 mmoles) of benzyl azide. The resulting reaction mixture was stirred under reflux for two days. Upon cooling to room temperature, 45 ml of 4M aqueous sodium hydroxide was added dropwise and the mixture was refluxed for 3 hours. The reaction was again cooled to room temperature and concentration in vacuo gave a gummy solid. This residue was dissolved in 125 ml of water and extracted with ether. Acidification (pH 1) with 12N hydrochloric acid caused precipitation of 25.1 g (87%) of 1(2 or 3)-benzyl-5-ethyl-1H-1,2,3-triazole-4-carboxylic acid as a tan solid. The structure was confirmed by n.m.r. and I.R.

reactant | sodium | 187 mmoles, 4.3 g | [Na] | Na
reactant | ethyl propionylacetate | 125 mmoles, 18.0 g | C(CC)(=O)CC(=O)OCC | C7H12O3
reactant | benzyl azide | 125 mmoles, 16.6 g | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | sodium hydroxide | 4M, 45 ml | [OH-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 125 ml | O | H2O
product | Benzyl-5-ethyl-1H-1,2,3-triazole-4-carboxylic acid | C(C1=CC=CC=C1)N1N=NC(=C1CC)C(=O)O | C12H13N3O2
